US06172097B2
Step 1: 7-(2-Bromobenzyl)-1,4-dioxaspiro[4.5]decan-8-one
A solution of 1,4-cyclohexanedione mono-ethylene acetal (20 g, 28 mmol) in THF (360 ml) is added dropwise under nitrogen to a solution, cooled to −78° C., of 1M lithium diisopropylamide in THF (150 mmol, 150 ml), and the mixture is then allowed to return to room temperature. After stirring for 1 hour, the mixture is cooled to −78° C. and 35.2 g (141 mmol) of 2-bromobenzyl bromide are added dropwise. After stirring for 30 minutes at −78° C., the temperature of the mixture is returned to 0° C. The mixture is stirred for 3 hours at 0° C. and then hydrolysed and extracted with ether. The organic phase is washed with a saturated NaCl solution, dried over MgSO4 and concentrated in vacuo. The title compound is purified by flash chromatography over a column.

reactant | 1,4-cyclohexanedione mono-ethylene acetal | 28 mmol, 20 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | lithium diisopropylamide | 1M | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-bromobenzyl bromide | 141 mmol, 35.2 g | BrC1=C(CBr)C=CC=C1 | C7H6Br2
solvent | THF | 360 ml | C1CCOC1 | C4H8O
solvent | THF | 150 mmol, 150 ml | C1CCOC1 | C4H8O
product | 7-(2-Bromobenzyl)-1,4-dioxaspiro[4.5]decan-8-one | BrC1=C(CC2CC3(OCCO3)CCC2=O)C=CC=C1 | C15H17BrO3
